US06689769B2
To a slurry of 907 g (3.13 mol) of (5R)-3-(4-bromo-3-fluorophenyl)-5-(hydroxymethyl)-1,3-oxazolidin-2-one in 4.5 L of CH2Cl2 in a 22 L round bottom flask was added 654 mL (4.69 mol, 1.50 equiv.) of triethylamine. The mixture was cooled to 0° C., and a solution of 832 g (34.75 mol, 1.20 equiv) of m-nitrobenzenesulfonyl chloride in 2 L of CH2Cl2 was added, keeping the temperature below 6° C. The mixture was sampled for HPLC, and an additional 55 g of solid m-nitrobenzenesulfonyl chloride was added to drive the reaction to completion. Hydrochloric acid (1M, 4.5 L) was added to the slurry. The solids were collected by filtration and washed with water. The phases in the filtrate were separated, and the aqueous later was extracted with 2×500 mL of CH2Cl2. The combined organic layers were concentrated and combined with the solids previously isolated, 2 L of CH2Cl2 and 2 L of methanol. This slurry was distilled on a rotary evaporator, keeping the volume at ˜5 L by adding methanol. The solids were collected by filtration, washed with 1 L of MeOH, and air dried to afford 1415 g (95%) of [(5R)-3-(4-bromo-3-fluorophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl 3-nitrobenzene sulfonate: TLC Rf=0.15 (50% EtOAc.hexanes); HPLC rt=5.68 min; mp 153-156°; [α]D=−76.6° C.=1, MeOH/CH2Cl2), 1H NMR (DMSO) δ8.77 (d, 1H, J=8.2 Hz), 8.71 (s,1H), 8.52 (d, 1H, 7.9 Hz), 8.14 (t, 1H, J=8.1 Hz), 7.85 (t, 1H, J=8.5 Hz), 7.73 (dd, 1H, J=2.3, 11.4 Hz), 7.40 (d, 1H, J=8.9 Hz), 5.12 (m, 1H), 4.68 (m, 2H), 4.28 (t, 1H, J=9.4 Hz), 3,89 (m, 1H); 13C NMR (DMSO) δ157.3 (s, JCF=242 hz), 152.4 (S), 147.2 (S), 138.3 (S, JCF=10 hz), 135.4 (S), 132.7 (D), 132.6 (D), 131.1 (D), 128.2 (D), 121.7 (D), 114.2 (D), 105.3 (D, JCF=29 Hz), 100.6 (s, JCF=20 Hz), 70.4 (t), 69.0 (d), 44.8 (t); Anal. calc'd for C16H12BrFN2O7S: C, 40.44; H, 2.55; N, 5.89; Br, 16.81; found: C. 40.22; H, 2.45; N, 5.86; Br, 16.60.

reactant | (5R)-3-(4-bromo-3-fluorophenyl)-5-(hydroxymethyl)-1,3-oxazolidin-2-one | 3.13 mol, 907 g | BrC1=C(C=C(C=C1)N1C(O[C@H](C1)CO)=O)F | C10H9BrFNO3
reactant | triethylamine | 4.69 mol, 654 mL, 1.50 equiv. | C(C)N(CC)CC | C6H15N
reactant | m-nitrobenzenesulfonyl chloride | 34.75 mol, 832 g, 1.20 equiv | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | Hydrochloric acid | 1M, 4.5 L | Cl | ClH
solvent | CH2Cl2 | 4.5 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 L | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 L | CO | CH4O
product | [(5R)-3-(4-bromo-3-fluorophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl 3-nitrobenzene sulfonate | 1415 g, 95% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)Br)F | C16H12BrFN2O7S
